US07888364B2
N-(4-Chloro-3-(pyridin-2-yl)phenyl)-3-hydroxy-4-(methylsulfonylmethyl)benzamide (50 mg, 0.12 mmol) was treated with iodomethane (7.5 μl, 0.12 mmol) via procedure U to yield 12 mg of N-(4-chloro-3-(pyridin-2-yl)phenyl)-3-methoxy-4-(methylsulfonylmethyl)benzamide. MS (Q1) 431 (M)+.

reactant | N-(4-Chloro-3-(pyridin-2-yl)phenyl)-3-hydroxy-4-(methylsulfonylmethyl)benzamide | 0.12 mmol, 50 mg | ClC1=C(C=C(C=C1)NC(C1=CC(=C(C=C1)CS(=O)(=O)C)O)=O)C1=NC=CC=C1 | C20H17ClN2O4S
reactant | iodomethane | 0.12 mmol, 7.5 μl | IC | CH3I
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-3-methoxy-4-(methylsulfonylmethyl)benzamide | 12 mg | ClC1=C(C=C(C=C1)NC(C1=CC(=C(C=C1)CS(=O)(=O)C)OC)=O)C1=NC=CC=C1 | C21H19ClN2O4S
